US05942516
E-3-[2-[(2-Carboxyphenyl)methoxy-4-methoxyphenyl]-pyridin-3-yl]-2-[2-methoxy-4,5-methylenedioxybenzyl]prop-2-enoic acid
Following the procedures in Example 4(b)-(c) except substituting 2-chloro-3-formyl-pyridine for 4chloro-3-formyl-pyridine and for the preparation of E-Ethyl 3-[2-[(2-Carbomethoxyphenyl)methoxy-4-methoxyphenyl]-pyridin-3-yl]-2-[2-methoxy4,5-methylenedioxybenzyl]prop-2-enoate shown in Example 6 (b), the title compound was prepared as a tan solid. (58 mg, 10% ) (400 MHz, CDCl3) δ 8.67 (d, J=3.5 Hz, 1H), 8.14 (d, J=7.8 Hz, 1H) 7.72 (s, 1H), 7.49-7.37 (m, 4H), 7.14 (dd, J=8.4 Hz, 4.8 Hz 1H), 6.71 (d, J=7.8 Hz, 1H), 6.70 (s, 1H), 6.48 (s, 1H), 6.43 (s, 1H), 5.85 (s, 2H), 5.49 (s, 2H), 3.89 (s, 3H), 3.71 (s, 3H), 2.87 (s, 2H); MS(ESP) m/e 570 [M+H]+ ; MS(ESN) m/e 568 [M-H]- ; mp 135-140°; Anal. (C32H27NO9.0.5H2O) calcd. C, 66.43; H, 4.88; N, 2.42: found. C, 66.47; H, 4.89; N, 2.40; HPLC tR 11.8 min, (Bakerbond Chiracel OC®; 25 cm×4.6 mm; hexane:ethanol, 80% with0.1%TFA;

reactant | 4chloro-3-formyl-pyridine | ClC1=C(C=NC=C1)C=O | C6H4ClNO
reactant | E-Ethyl 3-[2-[(2-Carbomethoxyphenyl)methoxy-4-methoxyphenyl]-pyridin-3-yl]-2-[2-methoxy4,5-methylenedioxybenzyl]prop-2-enoate | C(=O)(OC)C1=C(C=CC=C1)COC1=C(C=CC(=C1)OC)C1=NC=CC=C1/C=C(/C(=O)OCC)\CC1=C(C=C2C(=C1)OCO2)OC | C35H33NO9
reactant | hexane | CCCCCC | C6H14
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | ethanol | C(C)O | C2H6O
product | E-3-[2-[(2-Carboxyphenyl)methoxy-4-methoxyphenyl]-pyridin-3-yl]-2-[2-methoxy-4,5-methylenedioxybenzyl]prop-2-enoic acid | C(=O)(O)C1=C(C=CC=C1)COC1=C(C=CC(=C1)OC)C1=NC=CC=C1/C=C(/C(=O)O)\CC1=C(C=C2C(=C1)OCO2)OC | C32H27NO9
